US07572809B2
The mixture of 1-Bromo-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-ol (300 mg), 3-methoxy-phenylboronic acid (318 mg), Na2CO3 (400 mg), Tetrakis(triphenylphosphine)palladium(0) (100 mg), N,N-dimethylformamide (DMF) (2 ml) and water (2 ml) was heated at 180° C. for 30 minutes under microwave irradiation. After reaction finished, the mixture was sent to preparative LC-MS and 1-(3-methoxy-phenyl)-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-ol (180 mg) was produced as a solid. LC-MS m/e 347(MH+).

reactant | 1-Bromo-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-ol | 300 mg | BrC1=NC(=CC2=CC(=CC=C12)O)NC1=NNC(=C1)C | C13H11BrN4O
reactant | 3-methoxy-phenylboronic acid | 318 mg | COC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | Na2CO3 | 400 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 2 ml | O | H2O
product | 1-(3-methoxy-phenyl)-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-ol | 180 mg | COC=1C=C(C=CC1)C1=NC(=CC2=CC(=CC=C12)O)NC1=NNC(=C1)C | C20H18N4O2
